US04515786
Methyl 3α-acetoxy-11α-(3-methylbutylamino)-2β-ethoxy-5α-androstane-17β-carboxylate
Methyl 2β-ethoxy-3α-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate (464 mg) in chloroform containing dry PTSA (344 mg) was stirred for 20 min, then treated with acetic anhydride (1.0 ml) and the mixture left for 3 h. The reaction mixture was diluted with ethanol and evaporated to give an oil. This was dissolved in ethyl acetate, washed with dilute ammonia solution (2×), water (1×), dried and evaporated to give an oil. This was purified by preparative t.l.c. in CHCl3 /MeOH (20:1) to give the title compound as an oil (415 mg), [α]D +27.9°, νmax 1725 cm-1.

reactant | Methyl 2β-ethoxy-3α-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate | 464 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OC)O | C28H49NO4
reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 344 mg | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3α-acetoxy-11α-(3-methylbutylamino)-2β-ethoxy-5α-androstane-17β-carboxylate | 415 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C[C@@H]1OCC)C)NCCC(C)C)C(=O)OC | C30H51NO5
